US09102623B2
A4.3) N-(1-Methylpropyl)-2-oxo-6-(pentafluoroethyl)-1,2-dihydropyridine-3-carboxamide
At room temperature, 160 mg (0.56 mmol) of ethyl 2-oxo-6-(pentafluoroethyl)-1,2-dihydropyridine-3-carboxylate were stirred in 5 ml of 2-butylamine for 14 h. The pH was then adjusted to 2 by addition of 1N hydrochloric acid, which resulted in the precipitation of a colorless solid. Filtration with suction and drying gave 160 mg (91% of theory) of the product.

reactant | ethyl 2-oxo-6-(pentafluoroethyl)-1,2-dihydropyridine-3-carboxylate | 0.56 mmol, 160 mg | O=C1NC(=CC=C1C(=O)OCC)C(C(F)(F)F)(F)F | C10H8F5NO3
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | 2-butylamine | 5 ml | CC(CC)N | C4H11N
product | N-(1-Methylpropyl)-2-oxo-6-(pentafluoroethyl)-1,2-dihydropyridine-3-carboxamide | CC(CC)NC(=O)C=1C(NC(=CC1)C(C(F)(F)F)(F)F)=O | C12H13F5N2O2
